// Generated for: spectre
// Generated on: Apr 19 20:00:25 2022
// Design library name: Design
// Design cell name: nand2_simulate
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/home/ugrads/r/rohitbarichello/cadence/models/spectre/tsmc20N.m"
include "/home/ugrads/r/rohitbarichello/cadence/models/spectre/tsmc20P.m"

// Library name: Design
// Cell name: nand2
// View name: schematic
subckt nand2 A B GND VDD Y
    P1 (Y A VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 ps=2.4u \
        pd=2.4u m=1 region=sat
    P0 (Y B VDD VDD) tsmc20P w=700n l=200n as=3.5e-13 ad=3.5e-13 ps=2.4u \
        pd=2.4u m=1 region=sat
    N1 (net18 B GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
    N0 (Y A net18 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u \
        pd=1.6u m=1 region=sat
ends nand2
// End of subcircuit definition.

// Library name: Design
// Cell name: nand2_simulate
// View name: schematic
I0 (A B 0 vdd! out) nand2
V1 (B 0) vsource type=pulse dc=1.8 val0=0 val1=1.8 period=12n delay=3n \
        rise=100p fall=100p width=5n
V0 (A 0) vsource type=pulse dc=1.8 val0=0 val1=1.8 period=12n delay=3n \
        rise=100p fall=100p width=5n
V2 (vdd! 0) vsource type=dc dc=1.8
C0 (out 0) capacitor c=50f m=1
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=30n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
